US07547696B2
f.) 2-Amino-3-cyano-4-benzylamino-6-(morpholin-4-yl)quinoline
3 g of 2-amino-3-cyano-4-chloro-6-(morpholin-4-yl)quinoline and 6 mL of benzylamine are stirred at 125° C. for 3 hours. The reaction mixture is poured onto 30 mL of water. The precipitated material is filtered off, washed with 20 mL of water. After drying 2.3 g of the title compound is obtained, m.p.: 202° C.

reactant | 2-amino-3-cyano-4-chloro-6-(morpholin-4-yl)quinoline | 3 g | NC1=NC2=CC=C(C=C2C(=C1C#N)Cl)N1CCOCC1 | C14H13ClN4O
reactant | benzylamine | 6 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 30 mL | O | H2O
product | 2-Amino-3-cyano-4-benzylamino-6-(morpholin-4-yl)quinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)NCC1=CC=CC=C1)N1CCOCC1 | C21H21N5O
